US06215016B1
When 7.0 mL (72.0 mmol) of malonyl chloride was added to 7.0 mL (67.8 mmol) of acetylacetone, a violent exothermic reaction occurred to give a black solid within a few minutes. The solid was cooled to room temperature, washed with ether and then ethyl acetate, and filtered. The thus-obtained brown solid was recrystallized from ethyl acetate/methanol to give 1.75 g (10.4 mmol, 15.3%) of 5-acetyl-4-hydroxy-6-methyl-2-pyrone as brown crystals. The filtrates from washing and the recrystallized mother liquor were combined and concentrated; the residue was purified by silica gel column chromatography to give 2.87 g (17.1 mmol, 25.2%) of 5-acetyl-4-hydroxy-6-methyl-2-pyrone as orange crystals.

reactant | malonyl chloride | 72.0 mmol, 7.0 mL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | acetylacetone | 67.8 mmol, 7.0 mL | C(C)(=O)CC(C)=O | C5H8O2
product | 5-acetyl-4-hydroxy-6-methyl-2-pyrone | 10.4 mmol, 1.75 g, 15.3% | C(C)(=O)C=1C(=CC(OC1C)=O)O | C8H8O4
